US04011224
Preparation of 7-oxo-7H-dibenzo[d e,h]-quinolin-2-ol
103 g. of o-(3-hydroxy-1-isoquinolinyl)-benzoic acid were dispersed in 310 ml. of 96% H2SO4. This dispersion was then heated to 130° C. and kept under stirring at that temperature for one hour. The reaction mass was then cooled to about 90° C. and was then carefully poured into about 20 liters of hot water at 90°-95° C. The reaction mass was then stirred for 1 hour while leaving it to cool down.

reactant | o-(3-hydroxy-1-isoquinolinyl)-benzoic acid | OC=1N=C(C2=CC=CC=C2C1)C1=C(C(=O)O)C=CC=C1 | C16H11NO3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | water | about 20 liters | O | H2O
product | 7-oxo-7H-dibenzo[d e,h]-quinolin-2-ol | O=C1C=2C=3C(=CC(=NC3C3=C1C=CC=C3)O)C=CC2 | C16H9NO2
